US08008283B2
t-Butylcarbonyloxymethyl 3-Aminosulfonyl-4-phenoxy-5-(1-pyrrolidinyl)benzoate (Piretanide Pivaxetil Ester)
In a similar manner to Example 12, piretanide can be reacted with chloromethyl pivalate, triethylamine and sodium iodide in DMF to yield_t-butylcarbonyloxymethyl 3-aminosulfonyl-4-phenoxy-5-(1-pyrrolidinyl)benzoate.

reactant | piretanide | C=1C=CC(=CC1)OC=2C(=CC(=CC2S(=O)(=O)N)C(=O)O)N3CCCC3 | C17H18N2O5S
reactant | chloromethyl pivalate | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | [I-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | t-Butylcarbonyloxymethyl 3-Aminosulfonyl-4-phenoxy-5-(1-pyrrolidinyl)benzoate | NS(=O)(=O)C=1C=C(C(=O)OCOC(=O)C(C)(C)C)C=C(C1OC1=CC=CC=C1)N1CCCC1 | C23H28N2O7S
